US08791132B2
2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline (1.0 g, 5.0 mmol) was dissolved in 15 mL DMF and sodium hydride (600 mg, 15 mmol) was added portionwise at 0° C. and stirred for 10 min. 2-(4-Methoxy-phenyl)-oxirane (900 mg, 6.0 mmol) was added dropwise at the same temperature and stirred for 12 h at RT. The reaction was monitored by TLC & LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water and filtered through a Celite bed. A cake of compound was formed which was dissolved in MeOH and DCM. This was again filtered through a Celite bed and the filtrate concentrated. The solid thus obtained was crystallized in ether & hexane to get 600 mg of 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-(4-methoxy-phenyl)-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 7.27 (m, 3H), 7.24 (d, 1H), 7.00 (d, 1H), 6.98 (d, 2H), 4.98 (t, 1H), 4.09 (d, 2H), 3.81 (s, 3H), 3.67 (d, 1H), 3.32 (d, 1H), 2.79 (m, 3H), 2.7 (m, 1H), 2.49 (s, 3H), 2.45 (s, 3H). Separation by chiral HPLC provided enantiomers 20a and 20b. Optical rotations: Compound 20a, (−)10.20 (c 0.58, Chloroform, 99.61% HPLC purity); Compound 20b, (+)10.00 (c 0.59, Chloroform, 96.54% HPLC purity).

reactant | 2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline | 5.0 mmol, 1.0 g | CN1CC=2NC3=CC=C(C=C3C2CC1)C | C13H16N2
reactant | sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 2-(4-Methoxy-phenyl)-oxirane | 6.0 mmol, 900 mg | COC1=CC=C(C=C1)C1OC1 | C9H10O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-(4-methoxy-phenyl)-ethanol | 600 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(O)C1=CC=C(C=C1)OC | C22H26N2O2
